US05302718
2-Hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]-ethenyl]benzoic acid
Isobutyl 2-acetyloxy-5-[2-(4-(chlorosulfonyl)phenyl)ethenyl]benzoate (1.99 g, 0.0046 mol) and 2-pyridinamine (1.3 g, 0.0138 mol) was stirred in dichloromethane (10 ml) at 45° C. for 1 h. After cooling to room temperature dichloromethane (20 ml) and 2M sulfuric acid (20 ml) were added. The precipitated solid (1.3 g) was collected and washed with water. The organic phase was taken to dryness and the residue treated with boiling methanol containing ammonia (2 ml) for 20 min. After cooling, 0.6 g was collected which was combined with the first crop. The combined material (1.9 g) was refluxed with potassium hydroxide (1 g) in water (50 ml). After acidification and filtration, the solid residue was dissolved in 70% ethanol with about 3 equivalents of potassium hydroxide at the boiling point and acidified while boiling with hydrochloric acid. After filtration and drying, the yield was 1.25 g (70%).

reactant | Isobutyl 2-acetyloxy-5-[2-(4-(chlorosulfonyl)phenyl)ethenyl]benzoate | 0.0046 mol, 1.99 g | C(C)(=O)OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)Cl | C21H21ClO6S
reactant | 2-pyridinamine | 0.0138 mol, 1.3 g | N1=C(C=CC=C1)N | C5H6N2
reactant | sulfuric acid | 2M, 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | about 3 equivalents | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]-ethenyl]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C20H16N2O5S
